US04889865
Preparation of 10-phenyl-1,8,9-tripropionyloxy anthracene
To a mixture, stirred under an argon atmosphere, of 2.5 g of 1,8-dihydroxy-10-phenyl anthrone obtained at example 10 (1) in 25 cm3 of propionic anhydride, 0.100 cm3 of anhydrous pyridine is added. The reaction mixture is then brought for one hour to 70° C., at the end of which period all the initial reactant is transformed. The reactive excess is then removed by evaporation under a vacuum. The resulting solid is dissolved in a minimum of toluene, introduced into a silica gel column and then eluted with toluene. After evaporation of the eluant, 1.3 g of a solid are obtained which is then recrystallized in a toluene/hexane mixture, yielding 1.1 g white crystals having a melting point of 216° C.

reactant | 1,8-dihydroxy-10-phenyl anthrone | 2.5 g | OC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)O)C1=CC=CC=C1 | C20H14O3
solvent | propionic anhydride | 25 cm3 | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | 0.100 cm3 | N1=CC=CC=C1 | C5H5N
product | 10-phenyl-1,8,9-tripropionyloxy anthracene | 1.1 g | C1(=CC=CC=C1)C1=C2C=CC=C(C2=C(C2=C(C=CC=C12)OC(CC)=O)OC(CC)=O)OC(CC)=O | C29H26O6
